US04272533
EXAMPLE 5: 3-Methyl-2-(2-methylaminoethyl)-1-phenylindoline (Process b)
7.5 ml of triethylamine are added to a solution of 5.0 g of trans-2-(2-dimethylaminoethyl)-3-methyl-1-phenylindoline in 36 ml of toluene. 2.6 ml of ethyl chloroformate are added dropwise whilst refluxing the reaction mixture. After one and two hours 2.6 ml of ethyl chloroformate are again added. After a reaction time of 3 hours, cooling is effected and the reaction mixture is distributed between methylene chloride and dilute hydrochloric acid. After the mixture is washed with water and dried over sodium sulphate, the solvent is removed, whereupon the ethyl carbamate of the trans-3-methyl-2-(2-methylaminoethyl)-1-phenylindoline remains as a brown oil. 2. The latter is dissolved in 17 ml of n-butanol. 3.5 g of pulverized potassium hydroxide are added. The mixture is heated for 4 hours in an oil bath at 110°.

reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | trans-2-(2-dimethylaminoethyl)-3-methyl-1-phenylindoline | 5.0 g | CN(CC[C@@H]1N(C2=CC=CC=C2[C@H]1C)C1=CC=CC=C1)C | C19H24N2
reactant | ethyl chloroformate | 2.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 2.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Methyl-2-(2-methylaminoethyl)-1-phenylindoline | CC1C(N(C2=CC=CC=C12)C1=CC=CC=C1)CCNC | C18H22N2
